US04518596
8-Phenylthio-2-piperazino-4-thiomorpholino-pyrimido-[5,4-d]-pyrimidine
This compound was prepared analogous to Example 2 from 2-chloro-8-phenylthio-4-thiomorpholino-pyrimido-[5,4-d]-pyrimidine (m.p.: 236°-238° C.) and piperazine.

reactant | 2-chloro-8-phenylthio-4-thiomorpholino-pyrimido-[5,4-d]-pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)SC2=CC=CC=C2)N2CCSCC2 | C16H14ClN5S2
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 8-Phenylthio-2-piperazino-4-thiomorpholino-pyrimido-[5,4-d]-pyrimidine | C1(=CC=CC=C1)SC1=NC=NC2=C1N=C(N=C2N2CCSCC2)N2CCNCC2 | C20H23N7S2
